US06969725B2
In analogy to the procedure described in example 1 g], (S)-3-[2,6-dimethyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (S)-3-[2,6-dimethyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-2-ethoxy-propionic acid as colorless solid.

reactant | (S)-3-[2,6-dimethyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)OCC=1N=C(OC1C)C1=CC=CC=C1)C)OCC)=O | C25H29NO5
reactant | LiOH | [Li+].[OH-]
product | (S)-3-[2,6-dimethyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-2-ethoxy-propionic acid | CC1=C(C(=CC(=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C)C[C@@H](C(=O)O)OCC | C24H27NO5
